US07973047B2
Step 2: (S)-2,3-bis(tert-butyldimethylsilyloxy)propan-1-ol
To a 1.0 L RB flask containing (S)-2,3-bis(tert-butyldimethylsilyloxy)propyl 4-methoxybenzoate (9.200 g, 20 mmol) was added DCM (100 mL) and the mixture was allowed to stir at −78° C. for 5 minutes. At this time, DIBAL-H (1.0 M, hexanes) (61 ml, 61 mmol) was added via a syringe. The reaction was allowed to stir for 30 min and then quenched with MeOH (4.1 ml, 101 mmol). Sodium potassium tartate (sat, 200 mL) and DCM (100 mL) was added and the solution was allowed to warm to 23° C. and stirred for 3 h. The aq. layer was extracted with DCM (3 100 mL). The combined organics were washed with brine and dried with sodium sulfate and concentrated to give a residue.

reactant | (S)-2,3-bis(tert-butyldimethylsilyloxy)propyl 4-methoxybenzoate | 20 mmol, 9.200 g | COC1=CC=C(C(=O)OC[C@@H](CO[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)C=C1 | C23H42O5Si2
reactant | DIBAL-H | 61 mmol, 1.0 M, 61 ml | CC(C)C[AlH]CC(C)C
reactant | MeOH | 101 mmol, 4.1 ml | CO | CH4O
reactant | Sodium potassium | [K].[Na]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (S)-2,3-bis(tert-butyldimethylsilyloxy)propan-1-ol | [Si](C)(C)(C(C)(C)C)O[C@@H](CO)CO[Si](C)(C)C(C)(C)C | C15H36O3Si2
